US06559169B2
3-[1-(8-Methoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-1H-indole-5-carbonitrile
3-(1,2,3,6-Tetrahydro-4-pyridinyl)1H-indole-5-carbonitrile (0.70 g, 3.1 mmole) and [(2R)-8-methoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl-4-methylbenzenesulfonate (040 g, 1.1 mmole) were dissolved in a mixture of dimethylformamide/tetrahydrofuran (1:1 v/v, 50 mL) and sodium bicarbonate (1.0 g) added. The reaction mixture was refluxed under nitrogen for 18 hours. The solvent was evaporated in vacuum and the residue partitioned between 400 mL each of methylene chloride and water. The organic phase was separated, washed with water and saturated aqueous sodium chloride solution, dried over magnesium sulfate and filtered. The filtrate was evaporated in vacuum to give a solid which was purified by column chromatography on silica gel. Elution with 2% methanol in chloroform, concentration of the product fractions in vacuum and treatment of an ethereal solution of the residue with 4 N isopropanolic HCl gave the (S)-enantiomer of the title compound (250 mg, 54% ) as a yellow solid hydrochloride, one-quarter hydrate, m.p. 235-238° C.

reactant | 3-(1,2,3,6-Tetrahydro-4-pyridinyl)1H-indole-5-carbonitrile | 3.1 mmole, 0.70 g | N1CCC(=CC1)C1=CNC2=CC=C(C=C12)C#N | C14H13N3
reactant | (2R)-8-methoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl-4-methylbenzenesulfonate | 1.1 mmole | COC1=CC=CC2=C1O[C@@H](CO2)CC2=C(C=CC(=C2)C)S(=O)(=O)[O-]
solvent | dimethylformamide tetrahydrofuran | 50 mL | CN(C=O)C.O1CCCC1
solvent | sodium bicarbonate | 1.0 g | C([O-])(O)=O.[Na+]
product | 3-[1-(8-Methoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-1H-indole-5-carbonitrile | 250 mg, 54% | COC1=CC=CC2=C1OC(CO2)CN2CCC(=CC2)C2=CNC1=CC=C(C=C21)C#N | C24H23N3O3
